US05663414
N-(2-Indanyl)-4-{N-methyl-N-[(E)-3-(3,4-diacetoxyphenyl)-2-propenoyl]amino}benzenesulfonamide
A solution of 3,4-diacetoxycinnamoyl chloride (5.61 g, 19.9 mmol) in dichloromethane (50 ml) was dropped into a solution of the N-(2-indanyl)-4-(methylamino)benzenesulfonamide (5.00 g, 16.6 mmol) prepared in Preparative Example 14 in pyridine (50 ml) at 0° C. The obtained mixture was stirred at room temperature for 2 hours, followed by the addition of water. The obtained mixture was extracted with ethyl acetate. The organic layer was washed with 1N aqueous hydrochloric acid and a saturated aqueous solution of common salt, dried over magnesium sulfate, and concentrated to give a solid residue. This residue was recrystallized from ethyl acetate/ether/isopropyl ether to give the title compound as a white crystal (8.90 g, 100%). m.p. (°C.): 152~153 (iso-Pr2O)

reactant | 3,4-diacetoxycinnamoyl chloride | 19.9 mmol, 5.61 g | C(C)(=O)OC=1C=C(C=CC(=O)Cl)C=CC1OC(C)=O | C13H11ClO5
reactant | N-(2-indanyl)-4-(methylamino)benzenesulfonamide | 16.6 mmol, 5.00 g | C1C(CC2=CC=CC=C12)NS(=O)(=O)C1=CC=C(C=C1)NC | C16H18N2O2S
reactant | water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | N-(2-Indanyl)-4-{N-methyl-N-[(E)-3-(3,4-diacetoxyphenyl)-2-propenoyl]amino}benzenesulfonamide | 8.90 g, 100% | C1C(CC2=CC=CC=C12)NS(=O)(=O)C1=CC=C(C=C1)N(C(\C=C\C1=CC(=C(C=C1)OC(C)=O)OC(C)=O)=O)C | C29H28N2O7S
